US08207172B2
Preparation of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-(2-methoxyethyl)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
To 4 mL DMF cooled to 0° C. was added sodium hydride (16 mg (60%), 0.40 mmol). To the slightly yellow and heterogeneous mixture was added 2-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl]ethanol (100 mg, 0.19 mmol) as a 1 mL DMF solution, upon which the contents become brown and homogenous. The contents were allowed to stir with warming to it over 10 min., and added was iodomethane (0.01 mL, 0.23 mmol). The mixture was stirred for 90 min., after which time water (0.5 mL) was added. The contents were concentrated under reduced pressure to dryness, and the residue diluted with CH2Cl2 (10 mL). The organic layer was washed with water (3×10 mL). The organic layer was dried over MgSO4, filtered, and the solvent removed under reduced pressure. The crude residue was purified by reverse phase HPLC. The fractions for each respective product were combined and diluted with CH2Cl2 (50 mL), and neutralized with NaHCO3 (50 mL). The respective organic layers were dried over MgSO4, filtered, and the solvent removed under reduced pressure to afford the final pure products. Example 312 (15 mg, 15%) and N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-(2-methoxyethyl)-N-methyl-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine (8 mg, 8%) were each collected as white solids. Data for example 312: 1H-NMR (CD2Cl2-d2) δ 8.50 (s, 1H), 7.39 (s, 1H), 7.20-7.28 (m, 1H), 7.07-7.17 (m, 2H), 6.90-6.99 (m, 2H), 6.72 (d, 1H), 6.62 (d, 1H), 4.99 (s, 2H), 4.08 (t, 2H), 3.80 (t, 2H), 3.42 (s, 3H), 2.48 (t, 2H), 2.20 (t, 2H); LCMS RT=3.32 min; [M+H]+=536.3. Data for N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-(2-methoxyethyl)-N-methyl-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine: 1H-NMR (CD2Cl2-d2) δ 8.52 (s, 1H), 7.40 (s, 1H), 7.20-7.29 (m, 1H), 7.07-7.17 (m, 2H), 7.00 (s, 1H), 6.90-6.99 (m, 1H), 6.70 (d, 1H), 6.60 (d, 1H), 4.99 (s, 2H), 4.10 (t, 2H), 3.60 (t, 2H), 3.42 (s, 3H), 3.02 (s, 3H), 2.48 (t, 2H), 2.21 (t, 2H); LCMS RT=3.67 min; [M+H]+=550.4.

reactant | sodium hydride | 0.40 mmol, 16 mg | [H-].[Na+]
reactant | 2-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl]ethanol | 0.19 mmol, 100 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=C1C1=C(C3=CN(N=C3CC1)CCO)S2 | C26H21ClFN5O2S
reactant | iodomethane | 0.23 mmol, 0.01 mL | IC | CH3I
reactant | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-(2-methoxyethyl)-N-methyl-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 8 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)N(C=1N=CN=C2C1C1=C(C3=CN(N=C3CC1)CCOC)S2)C | C28H25ClFN5O2S
solvent | water | 0.5 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-(2-methoxyethyl)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1N=CN=C2C1C1=C(C3=CN(N=C3CC1)CCOC)S2 | C27H23ClFN5O2S
